US06900216B2
4-Fluorobenzo[b]thiophene was prepared starting from methyl thioglycolate and 2,6-difluorobenzaldehyde and then following a similar procedure to that given for 4-bromobenzo[b]thiophene in Example 9.

reactant | methyl thioglycolate | C(CS)(=O)OC | C3H6O2S
reactant | 2,6-difluorobenzaldehyde | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | 4-bromobenzo[b]thiophene | BrC1=CC=CC=2SC=CC21 | C8H5BrS
product | 4-Fluorobenzo[b]thiophene | FC1=CC=CC=2SC=CC21 | C8H5FS
